US05512207
3,6-Bis(2-hexoxypyridin-5-yl)pyridazine
Analogously to Example 5a from 2-decyloxypyridin-5-boronic acid and 3,6-dichloropyridazine.

reactant | 2-decyloxypyridin-5-boronic acid | C(CCCCCCCCC)OC1=NC=C(C=C1)B(O)O | C15H26BNO3
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 3,6-Bis(2-hexoxypyridin-5-yl)pyridazine | C(CCCCC)OC1=NC=C(C=C1)C=1N=NC(=CC1)C=1C=CC(=NC1)OCCCCCC | C26H34N4O2
